US06673793B2
To a stirred mixture of 3.07 g of 4-piperidone hydrochloride hydrate and 4.80 g of di-tert-butyl dicarbonate in 20 mL of THF is added 7.0 mL of 3N aqueous NaOH. The biphasic mixture is stirred well for 18 h, then diluted with chloroform. The phases are separated and the aqueous phase extracted with one portion of chloroform, and the combined extract dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography of the residue on silica using 10-20% ethyl acetate in dichloromethane provides 4.08 g of tert-butyl 4-oxopiperidine-1-carboxylate (Boc-piperidone) as a white crystalline solid.

reactant | 4-piperidone hydrochloride hydrate | 3.07 g | O.Cl.N1CCC(CC1)=O
reactant | di-tert-butyl dicarbonate | 4.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 3N, 7.0 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-oxopiperidine-1-carboxylate | 4.08 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
